US05707985
3-(4-Chloro-1-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane
The title compound was prepared by reacting 4-chloro-1-naphthalenesulfonyl chloride (0.27 g) with 3-azabicyclo[3.2.2]nonane (0.13 g) in the presence of DIEA using a procedure similar to that used in Example 5. Yield: 0.33 g, mp: 133.9°-137.3° C.

reactant | 4-chloro-1-naphthalenesulfonyl chloride | 0.27 g | ClC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C10H6Cl2O2S
reactant | 3-azabicyclo[3.2.2]nonane | 0.13 g | C12CNCC(CC1)CC2 | C8H15N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 3-(4-Chloro-1-naphthylsulfonyl)-3-azabicyclo[3.2.2]nonane | ClC1=CC=C(C2=CC=CC=C12)S(=O)(=O)N1CC2CCC(C1)CC2 | C18H20ClNO2S
